US04507308
A mixture comprising 10.62 g of N-(8-trifluoromethyl-4-quinolyl)-anthranilic acid sodium salt, 4.98 g of 90% 3-(β-chloroethyl)-oxazolidin-2-one and 60 ml of dimethylformamide was heated under stirring at 120° C. for five hours. Upon completion of the reaction, the mixture was cooled, filtered, and poured into 300 ml of water. The crude product was extracted with ethyl acetate, the solvent evaporated off and the residue crystallized from ethanol to give 6 g of N-(8-trifluoromethyl-4-quinolyl)-anthranilic acid β-(2-oxo-3-oxazolidinyl)-ethyl ester, melting at 158°-160° C.

reactant | N-(8-trifluoromethyl-4-quinolyl)-anthranilic acid sodium salt | 10.62 g | [Na+].FC(C=1C=CC=C2C(=CC=NC12)NC=1C(C(=O)[O-])=CC=CC1)(F)F
reactant | 3-(β-chloroethyl)-oxazolidin-2-one | 4.98 g | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(8-trifluoromethyl-4-quinolyl)-anthranilic acid β-(2-oxo-3-oxazolidinyl)-ethyl ester | 6 g | O=C1OCCN1CCOC(C=1C(NC2=CC=NC3=C(C=CC=C23)C(F)(F)F)=CC=CC1)=O | C22H18F3N3O4
